US04197310
Cis-2-(5-methyl-3-thenoyl)-3-hydroxy-2-hexenenitrile
The general procedure of Example 11 is repeated but replacing the β-oxo-2-thiophenepropionitrile and triethyl orthoacetate employed in that example with equivalent amounts of 5-methyl-β-oxo-3-thiophenepropionitrile and triethyl orthobutyrate whereby there is obtained the title compound in equally good yield.

reactant | β-oxo-2-thiophenepropionitrile | O=C(CC#N)C=1SC=CC1 | C7H5NOS
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 5-methyl-β-oxo-3-thiophenepropionitrile | CC1=CC(=CS1)C(CC#N)=O | C8H7NOS
product | triethyl orthobutyrate | C(CCC)(OCC)(OCC)OCC | C10H22O3
